US04112095
To a solution of α-(α,α,α-trifluoro-m-tolyl)-4-morpholineacetonitrile in 100 ml. of tetrahydrofuran is added 1.0 ml. of 30% KOH-ethanol solution. To the mixture is added 2.56 g. of crotononitrile and the mixture is stirred at room temperature for 18 hrs. The mixture is concentrated to dryness under vacuum and the residue is dissolved in chloroform. The solution is passed through a column of hydrous magnesium silicate. The eluent is concentrated to an oil (17.3 g) which is crystallized from hexane and recrystallized from CHCL3 -hexane to give 3-methyl-2-morpholino-2-(α,α,α-trifluoro-m-tolyl)glutaronitrile as crystals, m.p. 115°-118° C.

reactant | α-(α,α,α-trifluoro-m-tolyl)-4-morpholineacetonitrile | FC(C1=CC(=CC=C1)C(C#N)N1CCOCC1)(F)F | C13H13F3N2O
reactant | KOH ethanol | [OH-].[K+].C(C)O
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methyl-2-morpholino-2-(α,α,α-trifluoro-m-tolyl)glutaronitrile | CC(C(C#N)(C=1C=C(C=CC1)C(F)(F)F)N1CCOCC1)CC#N | C17H18F3N3O
